US09145380B2
a) N-Methyl-N′-(2-sulfamoylphenyl)dibenzo[b,d]thiophene-2,8-disulfonamide
8-(Methylsulfamoyl)dibenzo[b,d]thiophene-2-sulfonyl chloride (200 mg) was added to a solution of 2-aminobenzenesulfonamide (191 mg) in sulfolane (2 ml). The mixture was stirred at RT for 20 h then diluted with 1N hydrochloric acid. The solid was recovered, washed with 1N hydrochloric acid and dried to give the title compound (196 mg, 72%).

reactant | 8-(Methylsulfamoyl)dibenzo[b,d]thiophene-2-sulfonyl chloride | 200 mg | CNS(=O)(=O)C=1C=CC2=C(C3=C(S2)C=CC(=C3)S(=O)(=O)Cl)C1 | C13H10ClNO4S3
reactant | 2-aminobenzenesulfonamide | 191 mg | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
solvent | sulfolane | 2 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | hydrochloric acid | 1N | Cl | ClH
product | N-Methyl-N′-(2-sulfamoylphenyl)dibenzo[b,d]thiophene-2,8-disulfonamide | 196 mg, 72% | CNS(=O)(=O)C1=CC2=C(SC3=C2C=C(C=C3)S(=O)(=O)NC3=C(C=CC=C3)S(N)(=O)=O)C=C1 | C19H17N3O6S4
